US04629495
2,6-Dichloro-4-trifluoromethylphenylaniline (4.3 g) (described in U.S. Pat. No. 3,850,955) was dissolved, with stirring, in glacial acetic acid (23 ml). A solution of sodium nitrite (1.5 g) in concentrated sulphuric acid (11 ml) was then added at 55°-60° C. The solution thus obtained was cooled to 0°-5° C. and a solution of stannous chloride (16.4 g) in concentrated hydrochloric acid (14 ml) was added with vigorous stirring. A cream-coloured solid precipitated. The mixture was filtered and the solid obtained was added to a mixture of aqueous ammonia solution and ice. The mixture thus obtained was extracted with diethyl ether (×500 ml) and the combined ethereal extracts were dried over sodium sulphate, filtered and evaporated to dryness to give 2,6-dichloro-4-trifluoromethylphenylhydrazine (3.7 g), m.p. 54°-56° C., in the form of a colourless crystalline solid.

reactant | 2,6-Dichloro-4-trifluoromethylphenylaniline | 4.3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NC1=CC=CC=C1 | C13H8Cl2F3N
reactant | sodium nitrite | 1.5 g | N(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | acetic acid | 23 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 11 ml | S(O)(O)(=O)=O | H2O4S
solvent | hydrochloric acid | 14 ml | Cl | ClH
product | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 3.7 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
